US05326497
5.1 g of 5-trimethylsilyloxy-2-(4-[5-hydroxy-1-pentyl]phenyl)pyridine, 0.7 g of sodium hydride (60-65 wt. %), 2.5 g of 1-bromopropane and 100 ml of tetrahydrofuran were reacted analogously to Example 1(f) to give 3.6 g of 5-hydroxy-2-(4-[5-(propyloxy)-1-pentyl]phenyl)pyridine.

reactant | 5-trimethylsilyloxy-2-(4-[5-hydroxy-1-pentyl]phenyl)pyridine | 5.1 g | C[Si](OC=1C=CC(=NC1)C1=CC=C(C=C1)CCCCCO)(C)C | C19H27NO2Si
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 1-bromopropane | 2.5 g | BrCCC | C3H7Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-2-(4-[5-(propyloxy)-1-pentyl]phenyl)pyridine | 3.6 g | OC=1C=CC(=NC1)C1=CC=C(C=C1)CCCCCOCCC | C19H25NO2
